US04402960
A solution of 2.164 g of 3-chloroperbenzoic acid (80%) in 150 ml of dichloromethane is added dropwise to a solution of 3.90 g of 4,5-bis(4-methoxyphenyl)-2-(2-pyridylthio)imidazole in 100 ml of dichloromethane. The solution is stirred for 3 hours at room temperature, washed with sodium bicarbonate solution, dried over sodium sulfate, and concentrated under vacuum to dryness. The residue is chromatographed on 150 g of silica gel with acetone/hexane, thus producing 3.42 g of 4,5-bis(4-methoxyphenyl)-2-(2-pyridylsulfinyl)imidazole as an amorphous foam.

reactant | 3-chloroperbenzoic acid | 2.164 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4,5-bis(4-methoxyphenyl)-2-(2-pyridylthio)imidazole | 3.90 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)SC1=NC=CC=C1 | C22H19N3O2S
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4,5-bis(4-methoxyphenyl)-2-(2-pyridylsulfinyl)imidazole | 3.42 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)S(=O)C1=NC=CC=C1 | C22H19N3O3S
